US07314886B2
To a solution of (7-isopropyl-1H-indol-3-yl)-oxo-acetic acid ethyl ester (0.97 g. 3.7 mmol) in tetrahydrofuran was added 2.0 M solution of lithium borohydride in tetrahydrofuran. The mixture was heated at 90° C. for 5 hours. It was quenched with 5% HCl, followed by saturated sodium bicarbonate. It was extracted with ethyl acetate. The extracts were dried over magnesium sulfate and evaporated to dryness to provide a crude 2-(7-isopropyl -1H-indol-3-yl)-ethanol. ESI (+) MS m/e=204 (MH+), ESI (−) MS m/e=202 (MH−).

reactant | (7-isopropyl-1H-indol-3-yl)-oxo-acetic acid ethyl ester | 3.7 mmol, 0.97 g | C(C)OC(C(=O)C1=CNC2=C(C=CC=C12)C(C)C)=O | C15H17NO3
reactant | lithium borohydride | [BH4-].[Li+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-(7-isopropyl -1H-indol-3-yl)-ethanol | C(C)(C)C=1C=CC=C2C(=CNC12)CCO | C13H17NO
